US07820680B2
Step 2: 7-(Cyclohexylmethyl)-2-(4-fluorobenzyl)-9-hydroxy-6-thioxo-3,4,6,7-tetrahydro-2H-pyrazino [1,2-c]pyrimidine-1,8-dione
N-(Cyclohexylmethyl)-4-(4-fluorobenzyl)-3-oxopiperazine-1-carbothioamide (239 mg, 0.66 mmol) was azeotroped with anhydrous toluene and dissolved in anhydrous DMF (2 mL). The solution was cooled to 0° C., and a 1.0 M solution of lithium bis(trimethylsilyl)amide in THF (789 μL, 0.79 mmol) and diethyl oxalate (134 μL, 0.99 mmol) were added sequentially. After 15 min, the reaction was warmed to ambient temperature and treated once more with 1.0 M lithium bis(trimethylsilyl)amide in THF (789 μL, 0.79 mmol). The dark orange solution was stirred for 18 h. THF was removed by warming the reaction under a nitrogen stream, and the residue was diluted with MeOH. The resulting precipitate was collected by filtration and washed with MeOH to afford the title compound as a pale yellow solid.

reactant | N-(Cyclohexylmethyl)-4-(4-fluorobenzyl)-3-oxopiperazine-1-carbothioamide | 0.66 mmol, 239 mg | C1(CCCCC1)CNC(=S)N1CC(N(CC1)CC1=CC=C(C=C1)F)=O | C19H26FN3OS
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 0.79 mmol, 789 μL | C1CCOC1 | C4H8O
reactant | diethyl oxalate | 0.99 mmol, 134 μL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | lithium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 0.79 mmol, 789 μL | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 7-(Cyclohexylmethyl)-2-(4-fluorobenzyl)-9-hydroxy-6-thioxo-3,4,6,7-tetrahydro-2H-pyrazino [1,2-c]pyrimidine-1,8-dione | C1(CCCCC1)CN1C(N2C(=C(C1=O)O)C(N(CC2)CC2=CC=C(C=C2)F)=O)=S | C21H24FN3O3S
